US05538976
5-[N-(4-Cyanophenyl)-N-(2,3,4-trifluorobenzyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 2,3,4-trifluorobenzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 2,3,4-trifluorobenzyl bromide | FC1=C(CBr)C=CC(=C1F)F | C7H4BrF3
product | 5-[N-(4-Cyanophenyl)-N-(2,3,4-trifluorobenzyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(CC1=C(C(=C(C=C1)F)F)F)C=1C=NC=NC1 | C18H11F3N4
